Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Seroquel / Erythromycin Base / 
Reglan
 
Attending: ___.
 
Chief Complaint:
abdominal pain 
 
Major Surgical or Invasive Procedure:
dophoff placement 
Gtube replacement 

 
History of Present Illness:
___ yo F with hx of eating disorder s/p G/J tube placement, 
bipolar disorder, GERD, gastroparesis who presents with pain at 
GJ tube site. 

She was recently admitted at the end of ___ for abdominal pain. 
Her GJ tube was replaced on ___. She is now here again with 
abdominal pain. She says pain feels similar to prior episodes of 
when here tube was malpositioned. Her pain is predominately 
around the ring of the J tube for the last 24 hours. She has 
minimal nausea which is her baseline. She denies diarrhea. She 
had a bowel movement yesterday and has been passing gas. Prior 
to yesterday she was tolerating tube feeds and minimal po 
intake. She initially presented to ___ and then was 
transferred here for further management. She was given dilaudid 
prior to transfer. 

In the ED, initial VS: 97.7 53 107/65 16 98%. A bedside 
ultrasound showed no abscess. She was given IV dilaudid for pain 
and subsequently admitted for pain control and evaluation of the 
tube by ___. VS prior to transfer:  98.0, 106/78, 58, 18, 100%

Currently, she still has pain around her tube but improved after 
medication. 
  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, vomiting, diarrhea, BRBPR, melena, 
hematochezia, dysuria, hematuria.  
 
Past Medical History:
h/o Eating disorder/laxative abuse, patient reports is in 
remission and that she remains in outpatient therapy
Chronic constipation  
Bipolar disorder  
GERD  
Gastroparesis  
 
Social History:
___
Family History:
Pertinent for mother with breast cancer and a half sister with 
type 1 diabetes and a cousin with ___ disease.
 
Physical Exam:
VS - Temp 98.2F, BP 89/61, HR 58, R 16, O2-sat 99% RA  
GENERAL - well-appearing female in NAD, comfortable, appropriate 
 
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, slightly dry MM, 
OP clear  
NECK - supple, no cervical lymphadenopathy, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft. tender around GJ tube site. non 
distending. no masses or HSM, no rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout
 
Pertinent Results:
admission labs 
___ 06:06AM BLOOD WBC-10.2# RBC-4.17* Hgb-13.2 Hct-39.2 
MCV-94 MCH-31.6 MCHC-33.6 RDW-12.3 Plt ___
___ 06:06AM BLOOD Neuts-69.2 ___ Monos-3.7 Eos-2.0 
Baso-0.5
___ 06:06AM BLOOD ___ PTT-29.0 ___
___ 06:06AM BLOOD Glucose-93 UreaN-11 Creat-0.7 Na-141 
K-3.8 Cl-107 HCO3-25 AnGap-13
.
discharge labs
___ 07:50AM BLOOD WBC-7.3 RBC-4.22 Hgb-12.7 Hct-40.5 MCV-96 
MCH-30.2 MCHC-31.4 RDW-12.2 Plt ___
. 
imaging
G/GJ/GI tube check: 
FINDINGS:  Initial scout AP view of the abdomen demonstrates 
gastrojejunostomy tube coiled in the stomach.  Following the 
hand injection of Gastrografin through the patient's 
percutaneous gastrojejunostomy tube, contrast material is noted 
in the stomach as well as in the proximal duodenum.  A third AP 
view of the abdomen demonstrates contrast moving distally 
throughout the remainder of the duodenum.  There are clips noted 
in the left upper quadrant.  There is a nonspecific bowel gas 
pattern with no evidence of obstruction.
IMPRESSION:  The gastrojejunostomy tube again appears coiled in 
the stomach with the tip located at the fundus of the stomach.
.
PERC G/J TUBE CHECK/REPLACE (preliminary)
-Uncomplicated exchange of old 16 ___ MIC GJ tube with a new 
16 ___ 
G-tube, with its tip in the gastric lumen. It may be used. 
-Uncomplicated placement of a ___ nasoduodenal tube 
via the 
left nostril, with its tip in the distal duodenum. It may be 
used 

 
Brief Hospital Course:
___ yo F with hx of eating disorder s/p GJ tube placement, 
bipolar disorder, GERD, gastroparesis who presents with 
abdominal pain found to have GJ tube coiled in her stomach. 

# Abdominal Pain - most likely related to malpositioned GJ tube 
as demonstrated on imaging. She was given IV narcotics in the ED 
and pain was subsequently treated with with tylenol and oral 
oxycodone on the floor. Given that patient has had similar 
problems in the past, both ___ and surgery were consulted to 
discuss alternative options. Ultimately after discussion with 
the patient, ___, and surgery, the decision was made to place a 
dobhoff post pyloric and exchange her GJ tube for a G tube. She 
tolerated the procedure well. She was discharged with plans to 
follow up with her surgeon Dr. ___ to discuss J tube 
placement and with her GI physician. 

#  Bipolar disorder - continued home medications including 
lithium, clonazepam, and amphetamine-dextroamphetamine. 

# chronic constipation - docusate, senna, miralax

# GERD - continued omeprazole

Transitional Issues
- no labs pending at time of discharge
- patient will need to follow with her gastroenterologist and 
her surgeon Dr. ___ to discuss J tube placement. 
 
Medications on Admission:
1. amphetamine-dextroamphetamine 10 mg Tablet Sig: One (1) 
Tablet PO twice a day.  
2. clonazepam 2 mg Tablet Sig: One (1) Tablet PO at bedtime.  
3. lithium citrate 8 mEq/5 mL Solution Sig: Three Hundred (300) 
mg PO qAM and at 2PM.  
4. lithium citrate 8 mEq/5 mL Solution Sig: Six Hundred (600) mg 

PO QHS (once a day (at bedtime)).  
5. calcium carbonate  Oral
6. domperidone (bulk)     Powder Sig: Ten (10) mg Miscellaneous 
three times a day.  
7. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
8. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 

as needed for insomnia.  
9. ondansetron HCl 8 mg Tablet Sig: One (1) Tablet PO every 
eight (8) hours as needed for nausea.  
10. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. polyethylene glycol 3350 17 gram Powder in Packet Sig: One 
(1) Powder in Packet PO DAILY (Daily) as needed for 
constipation.  
12. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. vitamin D 
 
Discharge Medications:
1. amphetamine-dextroamphetamine *NF* 10 mg Oral BID Reason for 
Ordering: Wish to maintain preadmission medication while 
hospitalized, as there is no acceptable substitute drug product 
available on formulary.
2. Clonazepam 2 mg PO QHS 
hold for oversedation, RR<12 
3. Lithium Oral Solution 300 mg PO BID 
give qAM and at 2 pm  
4. Lithium Oral Solution 600 mg PO QHS 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO BID 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
9. Thiamine 100 mg PO DAILY 
10. Vitamin D 400 UNIT PO DAILY 
11. traZODONE 50 mg PO HS:PRN insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary diagnosis: abdominal pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you while you were admitted to the 
hospital. You were admitted because you were having pain 
associated with your GJ tube. You had a dobhoff placed and your 
Gtube replaced. You will need to follow up with Dr. ___ to 
discuss J tube placement. 
. 
There were no changes made to your medication regimen. Please 
take your medications as prescribed and follow up with your 
doctors as ___. 

 
Followup Instructions:
___